US09238647B2
Step A: ethyl 8-bromoimidazo[1,2-a]pyridine-6-carboxylate
To a solution of ethyl 6-amino-5-bromonicotinate (5.0 g, 20.4 mmol) in N,N-dimethylformamide (204 mL) were added bromoacetaldehyde dimethylacetal (3.45 g, 20.4 mmol) and p-toluenesulfonic acid (0.53 g, 3.1 mmol). The mixture was heated to 90° C. After 18 h, additional bromoacetaldehyde dimethylacetal (3.45 g, 20.4 mmol) and 4A° molecular sieves were added. The mixture was stirred at 90° C. for another 24 h. The mixture was warmed to ambient temperature and aqueous LiCl (3.0 M) was added. The mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. There was still some DMF in the crude product. Water was added and the mixture was extracted with t-butyl methyl ether, washed with brine, dried over sodium sulfate, filtered and concentrated. The mixture was carried on to the next step: LC-MS [M]=269.0.

reactant | ethyl 6-amino-5-bromonicotinate | 20.4 mmol, 5.0 g | NC1=NC=C(C(=O)OCC)C=C1Br | C8H9BrN2O2
reactant | bromoacetaldehyde dimethylacetal | 20.4 mmol, 3.45 g | COC(CBr)OC | C4H9BrO2
reactant | p-toluenesulfonic acid | 3.1 mmol, 0.53 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | bromoacetaldehyde dimethylacetal | 20.4 mmol, 3.45 g | COC(CBr)OC | C4H9BrO2
reactant | LiCl | 3.0 M | [Li+].[Cl-]
solvent | N,N-dimethylformamide | 204 mL | CN(C=O)C | C3H7NO
product | ethyl 8-bromoimidazo[1,2-a]pyridine-6-carboxylate | BrC=1C=2N(C=C(C1)C(=O)OCC)C=CN2 | C10H9BrN2O2
